US07528147B2
A solution of 5-benzyl-2-phenyltetrahydropyrrolo[3,4-c]pyrrole-1,3-dione, freed of its hydrochloride beforehand by treatment with 4 N sodium hydroxide (93.2 g; 304 mmol), in absolute ethanol (1200 ml) is placed in a 5000 ml autoclave and palladium-on-charcoal at 5% (11 g) is then added. After having purged with nitrogen, the autoclave is placed under 64 bar of hydrogen at 70° C. for 12 hours. After returning to 20° C., the catalyst is filtered off and the filtrate is evaporated under reduced pressure. The compound obtained is triturated in diisopropyl ether (500 ml) and the solid obtained is filtered off, washed with diisopropyl ether and, finally, dried under reduced pressure at constant weight. 2-Phenyltetrahydropyrrolo[3,4-c]pyrrole-1,3-dione, (6.6 g; 92%) is isolated, the characteristics of which are as follows:

reactant | 5-benzyl-2-phenyltetrahydropyrrolo[3,4-c]pyrrole-1,3-dione | C(C1=CC=CC=C1)N1CC2C(C1)C(N(C2=O)C2=CC=CC=C2)=O | C19H18N2O2
reactant | hydrochloride | Cl | ClH
reactant | sodium hydroxide | 304 mmol, 4 N, 93.2 g | [OH-].[Na+]
solvent | ethanol | 1200 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2-Phenyltetrahydropyrrolo[3,4-c]pyrrole-1,3-dione | C1(=CC=CC=C1)N1C(C2CNCC2C1=O)=O | C12H12N2O2
